US08420816B2
STEP A: (R)-1-tert-butyl 3-methyl 4-((4-methyl-1-oxo-1-(pyrrolidin-1-yl)pentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate
A mixture of sodium triacetoxyborohydride (139 mg, 0.657 mmol) and (R)-2-amino-4-methyl-1-(pyrrolidin-1-yl)pentan-1-one (91 mg, 0.493 mmol) in DCE (2 mL) was stirred at room temperature for 30 min. The reaction mixture was cooled to 0° C. A solution of 1-tert-butyl 3-methyl 4-formyl-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate (100mg, 0.329 mmol) in DCE (2 mL) was added, followed by acetic acid (1 drop). The reaction was stirred at 0° C. for 30 min and then at room temperature for 3 h. Purification by silica column chromatography (EtOAc/DCM, 0-10%) afforded the title compound as a yellow oil (160 mg, 93%). [M+H] calc'd for C25H36N4O5, 473; found, 473.7.

reactant | sodium triacetoxyborohydride | 0.657 mmol, 139 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (R)-2-amino-4-methyl-1-(pyrrolidin-1-yl)pentan-1-one | 0.493 mmol, 91 mg | N[C@@H](C(=O)N1CCCC1)CC(C)C | C10H20N2O
reactant | 1-tert-butyl 3-methyl 4-formyl-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | 0.329 mmol, 100mg | C(=O)C1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C | C15H16N2O5
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | (R)-1-tert-butyl 3-methyl 4-((4-methyl-1-oxo-1-(pyrrolidin-1-yl)pentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | 160 mg, 93% | CC(C[C@H](C(N1CCCC1)=O)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)C | C25H36N4O5
